US07776875B2
Preparation of Intermediate E/Z-6-chloro-3-[5-chloro-2-(4-methoxy-phenoxy)-benzylidene]-1,3-dihydro-indol-2-one
To the mixture of 6-chlorooxindole (8.3 g, 49.7 mmol) and 5-chloro-2-(4-methoxy-phenoxy)-benzaldehyde (13 g, 49.7 mmol) in methanol (100 mL) was added pyrrolidine (4.1 mL, 49.5 mmol) dropwise. The mixture was then heated at 70° C. for 3 h. After cooled to room temperature, the mixture was filtered and the precipitate was collected, dried to give the title compound as a yellow solid (15.5 g).

reactant | 6-chlorooxindole | 49.7 mmol, 8.3 g | ClC1=CC=C2CC(NC2=C1)=O | C8H6ClNO
reactant | 5-chloro-2-(4-methoxy-phenoxy)-benzaldehyde | 49.7 mmol, 13 g | ClC=1C=CC(=C(C=O)C1)OC1=CC=C(C=C1)OC | C14H11ClO3
reactant | pyrrolidine | 49.5 mmol, 4.1 mL | N1CCCC1 | C4H9N
solvent | methanol | 100 mL | CO | CH4O
product | Z-6-chloro-3-[5-chloro-2-(4-methoxy-phenoxy)-benzylidene]-1,3-dihydro-indol-2-one | 15.5 g | ClC1=CC=C2/C(/C(NC2=C1)=O)=C/C1=C(C=CC(=C1)Cl)OC1=CC=C(C=C1)OC | C22H15Cl2NO3
